US06603046B1
1.76 g (10 mmol) of 4-allyloxyacetophenone and 1.66 g (10 mmol) of 3,4-dimethoxy-benzaldehyde were under a dry inert atmosphere (argon) dissolved in 10 ml dry ethanol and the solution was stirred for 18 h. The solution was filtered to give 3.0 g (99%) of 3,4-dimethoxy-4′-prop-2-enyloxychalcone which was recrystallized from ethanol, m.p. 74.5-75° C.

reactant | 4-allyloxyacetophenone | 10 mmol, 1.76 g | CC(=O)C1=CC=C(C=C1)OCC=C | C11H12O2
reactant | 3,4-dimethoxy-benzaldehyde | 10 mmol, 1.66 g | COC=1C=C(C=O)C=CC1OC | C9H10O3
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3,4-dimethoxy-4′-prop-2-enyloxychalcone | 3.0 g, 99% | COC=1C=C(C=CC1OC)C=CC(=O)C1=CC=C(C=C1)OCC=C | C20H20O4
